* File: DLY1LX1.pex.netlist.pex
* Created: Mon Jun  5 11:38:41 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLY1LX1%D_VDD 1 4 8 12 17 33 34 35
c22 35 0 0.348144f
c23 34 0 0.298575f
c24 33 0 0.349742f
c25 29 0 0.0701213f
c26 12 0 0.283488f
c27 8 0 0.572591f
c28 4 0 0.454191f
c29 1 0 0.356031f
r30 28 35 0.264444
r31 28 29 0.0120155
r32 25 34 0.264444
r33 22 33 0.302222
r34 18 29 0.0329425
r35 12 29 0.0329425
r36 12 17 0.00425
r37 1 25 0.0120155
r38 1 8 0.0329425
r39 1 13 0.0329425
r40 1 22 0.0120155
r41 1 4 0.0329425
r42 1 9 0.0329425
r43 1 18 0.051
r44 1 17 0.14025
r45 1 13 0.102
r46 1 8 0.2295
r47 1 9 0.2295
r48 1 4 0.238
.ends

.subckt PM_DLY1LX1%N$7 2 3 5 6 8 10 13 14 16 18 28 30 33 36
c40 36 0 0.189764f
c41 33 0 0.140848f
c42 30 0 0.124715f
c43 28 0 0.0381141f
c44 26 0 0.0398649f
c45 18 0 0.388731f
c46 16 0 0.141646f
c47 14 0 0.0690878f
c48 13 0 0.520878f
c49 10 0 0.145334f
c50 6 0 0.180561f
c51 3 0 0.318949f
c52 2 0 0.112001f
r53 33 38 0.02975
r54 29 36 12.5
r55 28 30 0.0519666
r56 28 29 7
r57 20 26 0.00935391
r58 20 30 0.325833
r59 18 38 0.025958
r60 17 26 0.0359928
r61 17 18 0.70125
r62 16 26 0.0359928
r63 15 21 0.0216719
r64 15 16 0.247917
r65 11 36 6.3741
r66 11 13 172.917
r67 10 36 6.3741
r68 10 14 47.9167
r69 6 14 14.1186
r70 6 8 15.625
r71 3 13 14.1186
r72 3 5 28.125
r73 2 21 0.0330556
.ends

.subckt PM_DLY1LX1%D_GND 1 4 5 15 20
c21 20 0 0.565455f
c22 15 0 0.449249f
c23 5 0 0.176752f
c24 4 0 0.186034f
c25 1 0 0.719959f
r26 5 10 0.174722
r27 4 6 0.174722
r28 1 10 0.0120155
r29 1 20 0.0329425
r30 1 24 0.0329425
r31 1 6 0.0120155
r32 1 15 0.0329425
r33 1 21 0.0329425
r34 1 24 0.204
r35 1 20 0.2635
r36 1 21 0.221
r37 1 15 0.2465
.ends

.subckt PM_DLY1LX1%N$147 2 3 5 7 10 12 15 16 17 19 29 31 34 37 40
c47 40 0 0.126567f
c48 37 0 0.158206f
c49 34 0 0.092177f
c50 31 0 0.183446f
c51 29 0 0.0446835f
c52 19 0 0.0667292f
c53 17 0 0.35172f
c54 16 0 0.200391f
c55 15 0 0.256569f
c56 10 0 0.179046f
c57 5 0 0.313986f
c58 3 0 0.279546f
c59 2 0 0.0776005f
r60 34 40 0.0566888
r61 32 40 0.368333
r62 30 37 15.2843
r63 29 32 0.0517445
r64 29 31 0.0517445
r65 29 30 7
r66 27 31 0.538333
r67 17 19 116.667
r68 16 18 10.9936
r69 16 17 35.9936
r70 15 18 83.3333
r71 10 19 14.1186
r72 10 12 15.625
r73 5 15 14.1186
r74 5 7 28.125
r75 3 16 4.96721
r76 3 37 83.3333
r77 2 27 0.0519666
.ends

.subckt PM_DLY1LX1%N$146 2 4 6 9 13 15 19 21 22 24 36 37 38 41 46
c53 46 0 0.220573f
c54 41 0 0.0914657f
c55 38 0 0.157186f
c56 37 0 0.0881716f
c57 36 0 0.0144526f
c58 34 0 0.020285f
c59 24 0 0.0996273f
c60 22 0 0.056156f
c61 21 0 0.0985859f
c62 19 0 0.328235f
c63 15 0 0.243557f
c64 13 0 0.352487f
c65 9 0 0.331238f
c66 6 0 0.266028f
c67 4 0 0.149732f
c68 2 0 0.0911666f
r69 41 46 0.0566888
r70 37 43 15.219
r71 36 38 0.0519666
r72 36 37 7
r73 28 34 0.00935391
r74 28 38 0.3825
r75 25 34 0.0359928
r76 25 46 0.70125
r77 24 34 0.0359928
r78 23 29 0.0216719
r79 23 24 0.247917
r80 17 19 70.8333
r81 16 22 2.75115
r82 15 17 13.9682
r83 15 16 54.1667
r84 13 43 77.0833
r85 7 22 10.5861
r86 7 9 70.8333
r87 6 22 10.5861
r88 6 21 91.6667
r89 4 21 16.469
r90 3 37 1.25
r91 3 4 23.75
r92 2 29 0.0425
.ends

.subckt PM_DLY1LX1%Q 2 4 6 10 11 18
c22 18 0 0.0886708f
c23 11 0 0.130033f
c24 6 0 0.329854f
c25 4 0 0.0592036f
c26 2 0 0.1642f
r27 10 11 0.0141667
r28 7 10 0.0519444
r29 6 11 0.0216719
r30 6 16 0.587917
r31 4 18 0.0755777
r32 3 7 0.0216719
r33 3 4 0.262083
r34 2 16 0.0721486
.ends

.subckt PM_DLY1LX1%D 5 9 12 15 17 20
c27 20 0 0.30365f
c28 17 0 0.0304577f
c29 15 0 0.159731f
c30 12 0 0.080934f
c31 9 0 0.404661f
c32 5 0 0.389251f
r33 15 21 15.22
r34 15 20 15.22
r35 15 17 7
r36 12 20 97.9167
r37 11 12 21.4286
r38 9 11 100
r39 5 21 89.5833
.ends

