* File: DLY2LX1.pex.netlist.pex
* Created: Mon Jun  5 11:39:45 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLY2LX1%D_VDD 1 4 9 10 17 18 22 27 44 45 46 47
c31 47 0 0.348144f
c32 46 0 0.296351f
c33 45 0 0.120433f
c34 44 0 0.0693873f
c35 39 0 0.0701213f
c36 32 0 0.0467475f
c37 22 0 0.283488f
c38 18 0 0.611573f
c39 17 0 0.244917f
c40 10 0 0.634467f
c41 9 0 0.235759f
c42 4 0 0.44458f
c43 1 0 0.320752f
r44 44 57 0.0566888
r45 38 47 0.264444
r46 38 39 0.0120155
r47 35 46 0.264444
r48 28 39 0.0329425
r49 22 39 0.0329425
r50 22 27 0.017
r51 16 45 0.0755777
r52 16 17 0.410833
r53 11 32 0.0231002
r54 9 32 0.0225187
r55 9 57 0.3825
r56 4 32 0.0231002
r57 1 35 0.0120155
r58 1 18 0.0329425
r59 1 23 0.0329425
r60 1 17 0.0225187
r61 1 10 0.0231002
r62 1 19 0.0231002
r63 1 28 0.0425
r64 1 27 0.136
r65 1 23 0.0935
r66 1 18 0.238
r67 1 19 0.25075
r68 1 10 0.10625
r69 1 11 0.1275
r70 1 4 0.2295
.ends

.subckt PM_DLY2LX1%N$7 2 4 5 7 8 10 13 14 15 17 25 27 29 32
c38 32 0 0.17591f
c39 29 0 0.0796887f
c40 27 0 0.0270683f
c41 25 0 0.0838309f
c42 17 0 0.446625f
c43 15 0 0.0690878f
c44 14 0 0.118958f
c45 13 0 0.208633f
c46 8 0 0.179076f
c47 5 0 0.459096f
c48 4 0 0.40281f
c49 2 0 0.102643f
r50 27 29 0.0519666
r51 27 28 7
r52 24 32 0.116316
r53 24 25 0.0289446
r54 19 25 0.0158743
r55 19 29 0.255
r56 17 25 0.0289446
r57 17 23 0.821667
r58 13 14 17.6176
r59 13 15 68.75
r60 8 15 14.1186
r61 8 10 15.625
r62 5 28 24.6542
r63 5 7 28.125
r64 4 28 15.3636
r65 4 14 135.417
r66 2 23 0.0519666
.ends

.subckt PM_DLY2LX1%D_GND 1 5 6 7 18 21 25 28 31
c34 32 0 0.0701213f
c35 31 0 0.557213f
c36 29 0 0.0467475f
c37 28 0 0.595322f
c38 25 0 0.0933317f
c39 22 0 0.0467475f
c40 21 0 0.472174f
c41 18 0 0.0923401f
c42 7 0 0.227851f
c43 6 0 0.0929479f
c44 5 0 0.0892624f
c45 1 0 0.566347f
r46 31 32 0.0329425
r47 30 32 0.0329425
r48 28 29 0.0231002
r49 27 29 0.0231002
r50 21 22 0.0231002
r51 20 22 0.0231002
r52 12 32 0.0120155
r53 10 29 0.0225187
r54 10 25 0.177083
r55 8 22 0.0225187
r56 8 18 0.17
r57 7 12 0.165278
r58 6 25 0.0519666
r59 5 18 0.0519666
r60 1 30 0.19125
r61 1 31 0.00425
r62 1 27 0.20825
r63 1 28 0.01275
r64 1 20 0.22525
r65 1 21 0.13175
.ends

.subckt PM_DLY2LX1%N$156 2 3 6 9 11 12 14 16 19 22 23 27 33 35 38 41
c46 41 0 0.162239f
c47 35 0 0.204249f
c48 33 0 0.047555f
c49 27 0 0.238713f
c50 23 0 0.0949066f
c51 22 0 0.146602f
c52 21 0 0.0593789f
c53 19 0 0.127304f
c54 16 0 0.0767617f
c55 12 0 0.209327f
c56 9 0 0.403466f
c57 6 0 0.281671f
c58 3 0 0.261434f
c59 2 0 0.0793825f
r60 34 41 15.2843
r61 33 36 0.0519666
r62 33 35 0.0519666
r63 33 34 7
r64 31 35 0.545417
r65 27 38 0.0563339
r66 27 36 0.389583
r67 17 19 14.5833
r68 16 19 1.46822
r69 16 23 25
r70 12 23 16.469
r71 12 14 15
r72 9 22 16.469
r73 9 11 30
r74 7 21 10.5861
r75 7 22 47.9167
r76 6 21 10.5861
r77 5 17 1.46822
r78 5 6 93.75
r79 3 21 2.75115
r80 3 41 77.0833
r81 2 31 0.0519666
.ends

.subckt PM_DLY2LX1%N$155 2 3 5 6 8 10 12 13 14 16 18 27 29 32
c50 29 0 0.155994f
c51 27 0 0.0273579f
c52 25 0 0.0187501f
c53 18 0 0.232758f
c54 16 0 0.159386f
c55 14 0 0.0988621f
c56 13 0 0.279778f
c57 12 0 0.135457f
c58 8 0 0.212794f
c59 6 0 0.307937f
c60 3 0 0.408624f
c61 2 0 0.0759998f
r62 27 29 0.0519666
r63 27 28 7
r64 20 25 0.00935391
r65 20 29 0.34
r66 18 32 0.0744061
r67 17 25 0.0359928
r68 17 18 0.44625
r69 16 25 0.0359928
r70 16 24 0.439167
r71 12 28 51.8852
r72 12 14 43.75
r73 8 14 16.469
r74 8 10 15
r75 6 28 15.9375
r76 6 13 89.5833
r77 3 13 14.768
r78 3 5 30
r79 2 24 0.0519666
.ends

.subckt PM_DLY2LX1%nose 2 3 5 7 8 10 12 14 15 17 21 27 29 32 35
c50 35 0 0.160475f
c51 29 0 0.174302f
c52 27 0 0.0483359f
c53 21 0 0.243883f
c54 17 0 0.0669381f
c55 15 0 0.278958f
c56 14 0 0.421971f
c57 10 0 0.177843f
c58 8 0 0.113791f
c59 5 0 0.313891f
c60 3 0 0.287426f
c61 2 0 0.0769574f
r62 28 35 15.2843
r63 27 30 0.0519666
r64 27 29 0.0519666
r65 27 28 7
r66 25 29 0.502917
r67 21 32 0.0744061
r68 21 30 0.34
r69 14 16 15.6811
r70 14 17 139.583
r71 10 17 14.1186
r72 10 12 15.625
r73 8 16 10.9936
r74 8 15 91.6667
r75 5 15 14.1186
r76 5 7 28.125
r77 3 16 4.96721
r78 3 35 85.4167
r79 2 25 0.0519666
.ends

.subckt PM_DLY2LX1%N$146 2 4 5 7 10 11 13 15 16 18 30 31 32 35 37 41
c55 41 0 0.217976f
c56 37 0 0.31816f
c57 35 0 0.0954437f
c58 32 0 0.145967f
c59 31 0 0.199186f
c60 30 0 0.0186208f
c61 28 0 0.0203948f
c62 18 0 0.101855f
c63 16 0 0.056156f
c64 13 0 0.3066f
c65 11 0 0.247227f
c66 5 0 0.311571f
c67 4 0 0.414408f
c68 2 0 0.0908022f
r69 35 41 0.0566888
r70 31 38 15.2678
r71 31 37 18.8392
r72 30 32 0.0519666
r73 30 31 7
r74 22 28 0.00935391
r75 22 32 0.396667
r76 19 28 0.0359928
r77 19 41 0.694167
r78 18 28 0.0359928
r79 17 23 0.0216719
r80 17 18 0.269167
r81 13 15 64.5833
r82 12 16 2.75115
r83 11 13 13.9682
r84 11 12 54.1667
r85 10 37 64.5833
r86 5 16 10.5861
r87 5 7 64.5833
r88 4 16 10.5861
r89 4 38 139.583
r90 2 23 0.0425
.ends

.subckt PM_DLY2LX1%Q 2 3 4 6 8 14
c24 14 0 0.0878984f
c25 6 0 0.315061f
c26 4 0 0.0342038f
c27 3 0 0.151617f
c28 2 0 0.156532f
r29 6 8 0.0525117
r30 6 12 0.559583
r31 4 14 0.0755777
r32 3 8 0.0823887
r33 3 4 0.205417
r34 2 12 0.0729945
.ends

.subckt PM_DLY2LX1%D 1 5 9 14 16
c24 19 0 0.118871f
c25 16 0 0.0287921f
c26 14 0 0.155125f
c27 9 0 0.428912f
c28 5 0 0.582047f
c29 1 0 0.0449703f
r30 14 20 15.22
r31 14 19 14.3532
r32 14 16 7
r33 9 11 108.333
r34 5 20 160.417
r35 1 11 12.6897
r36 1 19 35.5769
.ends

