* File: DLY4LX1.pex.netlist.pex
* Created: Mon Jun  5 11:40:20 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DLY4LX1%D_VDD 1 4 9 10 16 22 27 41 42 43 44
c29 44 0 0.348144f
c30 43 0 0.298521f
c31 42 0 0.35585f
c32 41 0 0.072156f
c33 34 0 0.250313f
c34 33 0 0.0701213f
c35 28 0 0.0467475f
c36 22 0 0.283488f
c37 16 0 0.774145f
c38 10 0 0.801196f
c39 9 0 0.235759f
c40 4 0 0.44458f
c41 1 0 0.0701213f
r42 41 57 0.0566888
r43 34 44 0.264444
r44 32 43 0.264444
r45 32 33 0.0120155
r46 29 42 0.302222
r47 23 33 0.0329425
r48 22 27 0.034
r49 16 33 0.0329425
r50 11 28 0.0231002
r51 9 28 0.0225187
r52 9 57 0.3825
r53 4 28 0.0231002
r54 1 34 0.0244129
r55 1 22 0.0232504
r56 1 29 0.0120155
r57 1 10 0.0329425
r58 1 17 0.0329425
r59 1 27 0.136
r60 1 23 0.0765
r61 1 16 0.119
r62 1 17 0.2295
r63 1 10 0.238
r64 1 11 0.1275
r65 1 4 0.2295
.ends

.subckt PM_DLY4LX1%N$7 2 4 6 10 18 20 21 22 25 28
c35 25 0 0.17591f
c36 22 0 0.0868606f
c37 21 0 0.641883f
c38 20 0 0.0229905f
c39 18 0 0.0838309f
c40 10 0 0.422111f
c41 6 0 0.420857f
c42 4 0 0.684699f
c43 2 0 0.104658f
r44 21 28 28.3355
r45 20 22 0.0519666
r46 20 21 7
r47 17 25 0.116316
r48 17 18 0.0289446
r49 12 18 0.0158743
r50 12 22 0.255
r51 10 18 0.0289446
r52 10 16 0.78625
r53 6 8 24.3769
r54 4 21 16.9954
r55 4 8 218.75
r56 2 16 0.0518721
.ends

.subckt PM_DLY4LX1%D_GND 1 5 6 7 18 22 25 28 31
c36 31 0 0.443866f
c37 29 0 0.0701213f
c38 28 0 0.752134f
c39 26 0 0.0467475f
c40 25 0 0.80476f
c41 22 0 0.118352f
c42 18 0 0.118234f
c43 7 0 0.260449f
c44 6 0 0.0986337f
c45 5 0 0.0891223f
c46 1 0 0.569919f
r47 28 29 0.0329425
r48 27 29 0.0329425
r49 25 26 0.0231002
r50 24 26 0.0231002
r51 12 29 0.0120155
r52 10 26 0.0225187
r53 10 22 0.205417
r54 8 18 0.205417
r55 7 12 0.179539
r56 6 22 0.052061
r57 5 18 0.052061
r58 1 8 0.0225187
r59 1 31 0.0231002
r60 1 36 0.0231002
r61 1 27 0.15725
r62 1 28 0.17425
r63 1 24 0.19975
r64 1 25 0.15725
r65 1 36 0.25075
r66 1 31 0.24225
.ends

.subckt PM_DLY4LX1%N$156 2 3 6 10 11 14 19 26 32 35 38
c44 38 0 0.16172f
c45 35 0 0.16085f
c46 32 0 0.0896336f
c47 26 0 0.0869473f
c48 19 0 0.238797f
c49 17 0 0.060233f
c50 14 0 0.408851f
c51 11 0 0.24315f
c52 10 0 0.478647f
c53 6 0 0.454456f
c54 3 0 0.469847f
c55 2 0 0.0829403f
r56 32 38 0.0566888
r57 24 35 15.2843
r58 23 26 0.0613889
r59 23 24 7
r60 20 26 0.0216719
r61 20 38 0.389583
r62 19 26 0.0216719
r63 18 19 0.51
r64 14 16 24.3769
r65 10 11 30.0912
r66 7 17 10.5861
r67 7 11 81.25
r68 6 17 10.5861
r69 6 16 150
r70 3 17 2.75115
r71 3 35 143.75
r72 2 18 0.0518721
.ends

.subckt PM_DLY4LX1%N$155 2 8 9 12 16 24 26 27 28 31 33 37
c45 37 0 0.174273f
c46 33 0 0.342835f
c47 31 0 0.0930984f
c48 28 0 0.213489f
c49 27 0 0.180991f
c50 26 0 0.0405849f
c51 24 0 0.0198792f
c52 16 0 0.192474f
c53 12 0 0.42059f
c54 9 0 0.3516f
c55 8 0 0.493825f
c56 2 0 0.0829403f
r57 31 37 0.0566888
r58 27 34 15.3561
r59 27 33 15.3561
r60 26 28 0.0519666
r61 26 27 7
r62 20 24 0.00935391
r63 20 28 0.453333
r64 17 24 0.0359928
r65 17 37 0.502917
r66 16 24 0.0359928
r67 15 16 0.439167
r68 14 33 104.167
r69 12 14 24.3769
r70 9 34 114.583
r71 8 9 30.0912
r72 2 15 0.0518721
.ends

.subckt PM_DLY4LX1%nose 2 3 6 10 11 14 17 19 21 26 34 37
c45 37 0 0.160742f
c46 34 0 0.103996f
c47 26 0 0.0690112f
c48 21 0 0.171936f
c49 19 0 0.21775f
c50 17 0 0.0568738f
c51 14 0 0.405349f
c52 11 0 0.251973f
c53 10 0 0.479934f
c54 6 0 0.457093f
c55 3 0 0.465611f
c56 2 0 0.0853722f
r57 34 40 0.0314815
r58 24 37 15.2843
r59 23 26 0.0472222
r60 23 24 7
r61 21 40 0.0236544
r62 20 26 0.0216719
r63 20 21 0.396667
r64 19 26 0.0216719
r65 18 28 0.0216719
r66 18 19 0.502917
r67 14 16 24.3769
r68 10 11 30.0912
r69 7 17 10.5861
r70 7 11 83.3333
r71 6 17 10.5861
r72 6 16 147.917
r73 3 17 2.75115
r74 3 37 141.667
r75 2 28 0.0188889
.ends

.subckt PM_DLY4LX1%N$146 2 4 5 7 8 12 14 16 17 19 21 29 31 33 36 40
c50 40 0 0.200825f
c51 33 0 0.206549f
c52 31 0 0.0310018f
c53 29 0 0.0218652f
c54 21 0 0.306884f
c55 19 0 0.153932f
c56 17 0 0.0566131f
c57 14 0 0.299388f
c58 12 0 0.420103f
c59 8 0 0.245691f
c60 5 0 0.305015f
c61 4 0 0.327745f
c62 2 0 0.0907424f
r63 32 40 13.8889
r64 32 37 4.16667
r65 31 33 0.0519666
r66 31 32 7
r67 23 29 0.00935391
r68 23 33 0.4675
r69 21 36 0.0563339
r70 20 29 0.0359928
r71 20 21 0.587917
r72 19 29 0.0359928
r73 18 24 0.0216719
r74 18 19 0.354167
r75 14 16 62.5
r76 10 40 6.3741
r77 10 12 95.8333
r78 9 17 2.75115
r79 8 14 13.9682
r80 8 9 54.1667
r81 5 17 10.5861
r82 5 7 62.5
r83 4 17 10.5861
r84 3 37 6.3741
r85 3 4 110.417
r86 2 24 0.0330556
.ends

.subckt PM_DLY4LX1%Q 2 4 6 10 11 17
c22 17 0 0.0880321f
c23 11 0 0.125407f
c24 6 0 0.293291f
c25 4 0 0.063488f
c26 2 0 0.146069f
r27 10 11 0.0236111
r28 7 10 0.0377778
r29 6 11 0.0216719
r30 5 6 0.538333
r31 4 17 0.0755777
r32 3 7 0.0216719
r33 3 4 0.262083
r34 2 5 0.0755777
.ends

.subckt PM_DLY4LX1%D 3 5 7 13
c20 13 0 0.054083f
c21 7 0 0.777468f
c22 5 0 0.198474f
c23 3 0 0.338992f
r24 11 13 7
r25 5 11 18.8392
r26 5 7 225
r27 1 11 15.2678
r28 1 3 79.1667
.ends

